* source RECTIFIRE
V_V1         N00156 N00402  
+SIN 0 3 1k 0 0 0
D_D1         0 N00402 D1N4007 
D_D2         N00402 N00331 D1N4007 
C_C1         0 N00331  1u  
D_D3         0 N00156 D1N4007 
D_D4         N00156 N00331 D1N4007 
R_R1         0 N00331  1k  
