* source LIMITERS
D_D2         N04102 OUT D1N4007 
V_V3         IN 0  
+SIN 0 6 1k 0 0 0
R_R1         0 OUT  100k  
V_V2         0 N04102 4
D_D1         OUT N00435 D1N4007 
V_V1         N00435 0 4
R_R2         OUT IN  1k  
