* source R
V_V1         N00181 0  
+SIN 0 3 1k 0 0 0
D_D1         0 N00181 D1N4007 
D_D2         N00181 N00147 D1N4007 
D_D3         0 0 D1N4007 
D_D4         0 N00147 D1N4007 
R_R1         0 N00147  1k  
