* source T
V_VCC         VCC 0 15
V_Vs         N02250 0 DC 0 AC 1 0
Q_Q1         N02496 N02194 N02467 Q2N1893
R_RC         N02496 VCC  1k  
R_Rs         N02250 N02223  47  
R_RL         0 OUT  1k  
R_R1         N02194 VCC  11k  
C_CE         0 N02467  1000u  
R_R2         VEE N02194  1.8k  
C_CL         OUT N02496  470u  
R_RE         VEE N02467  220  
C_Cs         N02223 N02194  470u  
V_VEE         0 VEE 15
