* source DCCOMMON
Q_Q1         COLLECTOR BASE EMITER BC107A 
R_R1         BASE N00271  47k  
R_Rc         COLLECTOR N00271  1k  
R_Re         0 EMITER  220  
R_R2         0 BASE  10k  
V_VCC         N00271 0 10
