* source TRANS
R_R1         N00420 N00467  4.7k  
Q_Q1         N00522 N00551 0 BC107A 
R_RC         N00522 N00467  1k  
V_VCC         N00467 0 10
R_R2         0 N00420  100  
R_RB         N00551 N00420  1.2  
