* source THEVENIN
R_R1         N05535 N00170  330  
R_R2         A N00170  330  
L_L1         0 N05535  10uH IC=1 
R_R3         0 N00170  1k  
C_C1         A 0  1n IC=1  
