* source MAXPOWER
V_V1         N00113 0 4.5
R_R5         0 N00799  1k  
R_R1         N00113 N00143  330  
R_R2         N00143 N00170  330  
R_R3         0 N00143  1k  
R_Rl         0 N00170  1k  
V_V2         N00769 0 3.4
R_R4         N00769 N00799  578.12  
