* source DIOD
V_V1         N00126 0  
+SIN 0 3 1k 0 0 0
R_R1         0 N00164  1k  
D_D1         N00164 N00126 D1N4007 
C_C1         0 N00484  100u  
V_V2         N00416 0  
+SIN 0 3 1k 0 0 0
R_R2         0 N00484  1k  
D_D2         N00416 N00484 D1N4007 
