* source RL
L_L1         N00323 0  22mH  
R_R1         N00323 N00269  220  
L_L2         N02027 N02707  22mH IC=0 
V_V1         N00269 0  
+PULSE 0 4 0 1n 1n 0.5m 1m
R_R2         N02707 0  220  
V_V2         N02027 0 4
