* source WETSON
V_V1         N00442 0 10
R_R5         N00578 N00611  100  
R_R1         N00442 N00578  1k  
R_R2         N00611 N00442  4.7k  
R_R3         0 N00578  5.6k  
R_R4         N00611 0  3.3k  
.PARAM  R_v=1k
