* source COMMONEMI
Q_Q1         COLLECTOR BASE EMITER BC107A 
R_Rs         IN VI  10k  
V_VCC         N00409 0 10
R_Rl         0 OUT  2.2k  
R_Rc         COLLECTOR N00409  1k  
R_Re         0 EMITER  220  
R_R2         0 BASE  10k  
R_R1         BASE N00409  47k  
C_C1         VI BASE  100u  
C_C2         COLLECTOR OUT  100u  
V_V2         IN 0  
+SIN 0 20m 1k 0 0 0
C_ByPass         0 EMITER  100u  
